US08334286B2
(S)-(−)-2-Benzylhexahydropyrrolo[1,2-a]pyrazin-6(7H)-one
Methanesulfonic acid 2-[benzyl-((S)-5-oxo-pyrrolidin-2-ylmethyl)-amino]-ethyl ester (2.9 g, 8.89 mmol) was dissolved in a mixture of CH3CN/THF (1/1, 40 ml) and then 60% NaH (462 mg, 11.56 mmol) was added portionwise at room temperature, under a nitrogen atmosphere. After stirring for 16 hours, the solvent was removed under vacuum and the residue was taken up with water and extracted with DCM. The organic phase was washed with brine, dried (Na2SO4) and evaporated under vacuum. The residue was purified by flash chromatography (DCM/abs EtOH/Petroleum Ether/33% NH4OH/Et2O 300/180/900/9.9/360 respectively) to afford the title compound as a yellow oil (2 g, 97% yield).

reactant | Methanesulfonic acid 2-[benzyl-((S)-5-oxo-pyrrolidin-2-ylmethyl)-amino]-ethyl ester | 8.89 mmol, 2.9 g | C(C1=CC=CC=C1)N(CCOS(=O)(=O)C)C[C@H]1NC(CC1)=O | C15H22N2O4S
reactant | NaH | 11.56 mmol, 462 mg | [H-].[Na+]
solvent | CH3CN THF | 40 ml | CC#N.C1CCOC1
product | (S)-(−)-2-Benzylhexahydropyrrolo[1,2-a]pyrazin-6(7H)-one | 2 g, 97% yield | C(C1=CC=CC=C1)N1C[C@H]2N(CC1)C(CC2)=O | C14H18N2O
